US09024027B2
To a solution of methyl 2-(5-(methylsulfonamido)-2-oxoindolin-1-yl)acetate (0.133 g, 0.446 mmol) in dioxane (5 ml), 12M HCl (4 ml, 48.0 mmol) was added, and the mixture was stirred at room temperature for 24 hours. The volatiles fractions were evaporated and the residue was dried under vacuum. Crude of 2-(5-(methylsulfonamido)-2-oxoindolin-1-yl)acetic acid (0.130 g, 0.446 mmol, 100% yield) was used for the next step without any further purification. MS/ESI+ 284.9 [MH]+.

reactant | methyl 2-(5-(methylsulfonamido)-2-oxoindolin-1-yl)acetate | 0.446 mmol, 0.133 g | CS(=O)(=O)NC=1C=C2CC(N(C2=CC1)CC(=O)OC)=O | C12H14N2O5S
reactant | HCl | 48.0 mmol, 12M, 4 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-(5-(methylsulfonamido)-2-oxoindolin-1-yl)acetic acid | 0.446 mmol, 0.130 g, 100% yield | CS(=O)(=O)NC=1C=C2CC(N(C2=CC1)CC(=O)O)=O | C11H12N2O5S
